US07253204B2
Step 1. 4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-benzoic acid methyl ester (350)
A solution of 4-formyl-benzoic acid methyl ester (1.0 g, 6.7 mmol), thiazolidine-2,4 dione (0.78 g, 6.7 mmol) and piperidine (0.66 ml, 6.7 mmol) in 2-methoxy-ethanol (20 ml) was refluxed for 2 hrs, cooled to the room temperature and evaporated. The residue was triturated with CH2Cl2 to produce a crystalline material which was collected by filtration to afford the title compound (620 mg, 35% yield). LRMS: 263.3 (calcd.), 264.1 [MH]+ (found).

reactant | 4-formyl-benzoic acid methyl ester | 6.7 mmol, 1.0 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | thiazolidine-2,4 dione | 6.7 mmol, 0.78 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 6.7 mmol, 0.66 ml | N1CCCCC1 | C5H11N
solvent | 2-methoxy-ethanol | 20 ml | COCCO | C3H8O2
product | 4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-benzoic acid methyl ester | 620 mg, 35% yield | COC(C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O)=O | C12H9NO4S
